### PR TITLE
[Merged by Bors] - refactor(*): get rid of `(forget _).obj` and `(forget _).map`

### PR DESCRIPTION
**Pull request by Vierkantor**
This PR tries getting rid of `HasForget.forget` by searching for `\(forget .*\).(obj|map)` and removing all the occurrences where they could become `ConcreteCategory.hom`. In particular, they should no longer be written in any theorem statement. There are still a few places, generally in the middle of proving properties of the forgetful functor itself, where it was nicer to keep `HasForget`.

The final step is to modify the `elementwise` attribute to produce `ConcreteCategory` lemmas, and the refactor itself is done. After that point, we should still go through and try to clean up the workarounds left behind. But that can be done at a lower priority.

---

- [ ] depends on: #21725 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiSeparated.lean [hunk 1]
```diff
@@ -85,17 +85,15 @@ theorem quasiCompact_affineProperty_iff_quasiSeparatedSpace {X Y : Scheme} [IsAf
     haveI : IsAffine _ := U.2
     haveI : IsAffine _ := V.2
     let g : pullback U.1.ι V.1.ι ⟶ X := pullback.fst _ _ ≫ U.1.ι
-    -- Porting note: `inferInstance` does not work here
-    have : IsOpenImmersion g := PresheafedSpace.IsOpenImmersion.comp _ _
+    have : IsOpenImmersion g := inferInstance
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/Morphisms/QuasiSeparated.lean:88]: Can you simply drop this line? Or do you somehow need it for performance?

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiSeparated.lean [hunk 2]
```diff
@@ -85,17 +85,15 @@ theorem quasiCompact_affineProperty_iff_quasiSeparatedSpace {X Y : Scheme} [IsAf
...
     have e := Homeomorph.ofIsEmbedding _ this.base_open.isEmbedding
     rw [IsOpenImmersion.range_pullback_to_base_of_left] at e
     erw [Subtype.range_coe, Subtype.range_coe] at e
     rw [isCompact_iff_compactSpace]
     exact @Homeomorph.compactSpace _ _ _ _ (H _ _) e
   · introv H h₁ h₂
     let g : pullback f₁ f₂ ⟶ X := pullback.fst _ _ ≫ f₁
-    -- Porting note: `inferInstance` does not work here
-    have : IsOpenImmersion g := PresheafedSpace.IsOpenImmersion.comp _ _
+    have : IsOpenImmersion g := inferInstance
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/Morphisms/QuasiSeparated.lean:96]: Idem

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by jcommelin** [comment]
The slightly more complicated variable lines are a great trade-off for the much nicer looking proofs.

bors merge

File: Mathlib/Algebra/Category/ModuleCat/Tannaka.lean [hunk 3]
```diff
@@ -35,8 +35,8 @@ def ringEquivEndForget₂ (R : Type u) [Ring R] :
     intro φ
     apply NatTrans.ext
     ext M (x : M)
-    have w := congr_fun ((forget _).congr_map
-      (φ.naturality (ModuleCat.ofHom (LinearMap.toSpanSingleton R M x)))) (1 : R)
+    have w := CategoryTheory.congr_fun
```
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/Algebra/Category/ModuleCat/Tannaka.lean:38]: I think we should indeed go through and standardize naming when the dust has settled: we have for example all of `CategoryTheory.congr_hom` and `CategoryTheory.ConcreteCategory.congr_hom` and `CategoryTheory.congr_fun` with the same meaning.
